US06452014B1
A suspension of 2-[4-[(2,4-dioxothiazolidin-5-ylidene)methyl]phenyl]-5,6-dichlorobenzimidazole (100 mg, 0.256 mmol) and magnesium turnings (125 mg, 5.1 mmol) in methanol (20 mL) was stirred for 40 h at room temperature. Water and hydrochloric acid (1 mol/L) was added, and the mixture was extracted with ethyl acetate. The organic layer was washed washed with water and brine, dried on anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (10:1 chloroform/methanol) and triturated with ethanol to give 2-[4-[(2,4-dioxothiazolidin-5-yl)methyl]phenyl]-5,6-dichlorobenzimidazole (20 mg, 20%).

reactant | 2-[4-[(2,4-dioxothiazolidin-5-ylidene)methyl]phenyl]-5,6-dichlorobenzimidazole | 0.256 mmol, 100 mg | O=C1SC(C(N1)=O)=CC1=CC=C(C=C1)C=1NC2=C(N1)C=C(C(=C2)Cl)Cl | C17H9Cl2N3O2S
reactant | magnesium | 5.1 mmol, 125 mg | [Mg] | Mg
reactant | Water | O | H2O
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
product | 2-[4-[(2,4-dioxothiazolidin-5-yl)methyl]phenyl]-5,6-dichlorobenzimidazole | 20 mg, 20% | O=C1SC(C(N1)=O)CC1=CC=C(C=C1)C=1NC2=C(N1)C=C(C(=C2)Cl)Cl | C17H11Cl2N3O2S
